US06242600B1
2-(4-Methoxybenzyl)-4-oxo-4-(4-pyridin-4-ylpiperazin-1-yl)butanoic Acid Methyl Ester
To a solution of 2-(4-methoxybenzyl)succinic acid 1-methyl ester (3 g) in acetonitrile (60 ml) were added HOBt (1-hydroxy-1H-benzotriazole monohydrate) (1.84 g) and 1-ethyl-3-(3-dimethylamgnopropyl)carbodiide hydrochloride (2.76 g) and the solution was stirred for 10 minutes. To the solution was added 1-(4-pyridyl)-piperazine (1.96 g) and the solution was stirred for 30 minutes at room temperature. The reaction mixture was concentrated and the concentrate was made basic with an aqueous solution of sodium hydrogen carbonate to give an alkaline solution, which was extracted with ethyl acetate twice. The extract was washed with saturated brine and dried over Na2SO4. The solution was concentrated under reduced pressure and recrystallized from ethyl acetate/hexane to give the titled compound (4.25 g) as colorless needles.

reactant | 2-(4-methoxybenzyl)succinic acid 1-methyl ester | 3 g | COC(C(CC(=O)O)CC1=CC=C(C=C1)OC)=O | C13H16O5
reactant | HOBt | 1.84 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(4-pyridyl)-piperazine | 1.96 g | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | 2-(4-Methoxybenzyl)-4-oxo-4-(4-pyridin-4-ylpiperazin-1-yl)butanoic Acid Methyl Ester | 4.25 g | COC(C(CC(N1CCN(CC1)C1=CC=NC=C1)=O)CC1=CC=C(C=C1)OC)=O | C22H27N3O4
